US06737425B1
90-1) 2-(N-cylohexylanilino)ethanol
N-ethoxycarbonylmethyl-N-cyclohexyl aniline 1.89 g was obtained from N-cyclohexyl aniline 1.30 g in the same manner as in the above example. This product 860 mg was reduced to give the title compound (300 mg, 42%).

reactant | N-ethoxycarbonylmethyl-N-cyclohexyl aniline | 1.89 g | C(C)OC(=O)CN(C1=CC=CC=C1)C1CCCCC1 | C16H23NO2
reactant | N-cyclohexyl aniline | 1.30 g | C1(CCCCC1)NC1=CC=CC=C1 | C12H17N
product | 2-(N-cylohexylanilino)ethanol | 300 mg, 42% | C1(CCCCC1)N(C1=CC=CC=C1)CCO | C14H21NO
